US05322858
p-Chlorophenyl isothiocyanate (XXXIa) (50.7 grams) is added to a suspension of sodium cyanamide (19.2 g) in ethanol (30 mL) with stirring which slowly dissolves and precipitates the sodium salt of N-cyano-N'-p-chlorophenylthiourea (XXXIIa) which is filtered off, washed with ethanol and dried to yield 36.2 grams which are suspended in 200 mL of ethanol and combined with 37.6 grams of methyl iodide with rapid stirring at ambient room temperature. The product separates as heat is evolved. The suspension is cooled in an ice bath, the solids filtered, washed with water and dried to give N-cyano-N'-p-chlorophenyl-S-methylisothiourea (XXXIIIa).

reactant | p-Chlorophenyl isothiocyanate | 50.7 grams | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | sodium cyanamide | 19.2 g | N#CN.[Na]
reactant | methyl iodide | 37.6 grams | CI | CH3I
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | N-cyano-N'-p-chlorophenyl-S-methylisothiourea | C(#N)NC(SC)=NC1=CC=C(C=C1)Cl | C9H8ClN3S
